US06964961B2
B. (7-Chloro-thieno[3,2-b]pyridin-2-yl)-(6-dimethylamino-3-aza-bicyclo[3.1.0]hex-3-yl)-methanone
NaBH3CN (211 mg, 3.36 mmol) was added to a solution of (6-amino-3-aza-bicyclo[3.1.0]hex-3-yl)-(7-chloro-thieno[3,2-b]pyridin-2-yl)-methanone (250 mg, 0.85 mmol) and formaldehyde (1.14 mL, 17 mmol) in CH3CN at 0° C. After 30 min AcOH (0.5 mL) was added and the reaction mixture was allowed to warm to room temperature. After 1 h the reaction mixture was concentrated, and the resulting residue was dissolved in H20. The resulting aqueous layer was adjusted to pH 9 with 6N NaOH. The resulting solution was extracted with CH2Cl2 (2×) and the combined organic extracts were dried over Na2SO4, filtered, then concentrated. The resulting material was purified on silica gel by flash column chromatography CH2Cl2/MeOH (85/15) to afford the title compound as a white solid (44 mg, 16%). MS: 322.2/324.2 (MH+); HPLC Rf: 3.62 min.; HPLC purity 95%.

reactant | NaBH3CN | 3.36 mmol, 211 mg | [BH3-]C#N.[Na+]
reactant | (6-amino-3-aza-bicyclo[3.1.0]hex-3-yl)-(7-chloro-thieno[3,2-b]pyridin-2-yl)-methanone | 0.85 mmol, 250 mg | NC1C2CN(CC12)C(=O)C1=CC2=NC=CC(=C2S1)Cl | C13H12ClN3OS
reactant | formaldehyde | 17 mmol, 1.14 mL | C=O | CH2O
reactant | AcOH | 0.5 mL | CC(=O)O | C2H4O2
solvent | CH3CN | CC#N | C2H3N
product | (7-Chloro-thieno[3,2-b]pyridin-2-yl)-(6-dimethylamino-3-aza-bicyclo[3.1.0]hex-3-yl)-methanone | 44 mg, 16% | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2CC1C(C1C2)N(C)C | C15H16ClN3OS
